US08623855B2
Preparation of [2-(4-fluorophenyl)-2-oxo-ethyl]acetate (Compound A-1)
To a 3 liter flask were added 400 grams (2.32 mol) 2-chloro-1-(4-fluorophenyl)ethanone, 1 liter of N,N-dimethylformamide and 265 grams (3.23 mol) anhydrous sodium acetate. The mixture was stirred and heated to 90° C., and the reaction lasted 10 hours. After the reaction was completed, the heating was stopped. The reaction solution was cooled down to room temperature, and extracted with ethyl acetate (600 ml×6). The organic phases were combined, washed three times with brine, dried over anhydrous sodium sulfate and concentrated until dry. The residue was crystallized from the mixed toluene/petroleum ether solution and dried to obtain 357 grams (1.82 mol) compound A-1 with yield of 78.5%. 1H NMR (400 MHz, CDCl3): δ 2.23 (s, 3H, CH3), 5.30 (s, 2H, —CH2—), 7.14-7.19 (m, 2H, Cpr-H), 7.93-7.97 (m, 2H, Cpr-H); MS (m/z): 197 [M+H].

reactant | 2-chloro-1-(4-fluorophenyl)ethanone | 2.32 mol, 400 grams | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
reactant | sodium acetate | 3.23 mol, 265 grams | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
product | [2-(4-fluorophenyl)-2-oxo-ethyl]acetate | 1.82 mol, 357 grams, yield of 78.5% | FC1=CC=C(C=C1)C(COC(C)=O)=O | C10H9FO3
